US07728009B1
Step 2. Preparation of 1-cyclopentyl-4-(5-methyl-2-naphthalen-1-yl-3H-imidazol-4-ylmethyl)-piperazine
(5-Methyl-2-naphthalen-1-yl-3H-imidazol-4-yl)-methanol (40 mg) is treated with SOCl2, followed by N-cyclopentylpiperazine (60 mg) and Et3N (0.04 ml) in CH2Cl2 (2 ml). The crude is purified by column (2% Et3N, 3% MeOH in EtOAc) to afford the title compound as a white solid. LCMS 375.5 (M+1).

reactant | (5-Methyl-2-naphthalen-1-yl-3H-imidazol-4-yl)-methanol | 40 mg | CC1=C(NC(=N1)C1=CC=CC2=CC=CC=C12)CO | C15H14N2O
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | N-cyclopentylpiperazine | 60 mg | C1(CCCC1)N1CCNCC1 | C9H18N2
reactant | Et3N | 0.04 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-cyclopentyl-4-(5-methyl-2-naphthalen-1-yl-3H-imidazol-4-ylmethyl)-piperazine | C1(CCCC1)N1CCN(CC1)CC=1NC(=NC1C)C1=CC=CC2=CC=CC=C12 | C24H30N4
